US05994368
A mixture of 8-benzyloxy-4-ethoxycarbonyl-2-methylquinoline (663 mg) and palladium(II) hydroxide (60 mg) in a mixture of ethanol (6 ml) and dioxane (6 ml) was stirred for 3 hours at ambient temperature under hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated. The residue was pulverized with n-hexane to give 4-ethoxycarbonyl-8-hydroxy-2-methylquinoline (370 mg) as pale yellow solid.

reactant | 8-benzyloxy-4-ethoxycarbonyl-2-methylquinoline | 663 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CC(=NC12)C)C(=O)OCC | C20H19NO3
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | palladium(II) hydroxide | 60 mg | [OH-].[Pd+2].[OH-]
product | 4-ethoxycarbonyl-8-hydroxy-2-methylquinoline | 370 mg | C(C)OC(=O)C1=CC(=NC2=C(C=CC=C12)O)C | C13H13NO3
